US07042755B1
4-(S-Acetylthiomethyl)benzaldehyde (10)
To a solution of 4-(bromomethyl)-benzaldehyde (Hsung et al. (1995) Organometallics, 14: 4808–4815; Bookser and Bruice (1991) Am. Chem. Soc. 113: 4208–4218; Wagner et al. (1997) Tetrahedron 53: 6755–6790 for the synthesis of 3-(bromomethyl)benzaldehyde) (0.43 g, 2.2 mmol) in acetone (10 mL) was added potassium thioacetate (280 mg, 2.5 mmol) under stirring at rt, then the mixture was refluxed. A precipitate formed after a few minutes. The reaction was monitored by TLC and cooled to rt when no starting material was detectable (3.5 h). Water (25 mL) was added, the mixture was extracted with ethyl acetate (3×30 mL), and the combined organic phases were dried (Na2SO4) and evaporated. Column chromatography over flash silica gel (ethyl ether/hexanes, 1:1) gave 359 mg (85% yield) of a brown oil which darkened upon standing (nonetheless elementary analysis four weeks after exposure to air at rt indicated a high level of purity as listed below). IR (neat): {tilde over (v)} 3052, 2923, 2830, 2737, 1694, 1606, 1576; 1H NMR δ 2.36 (s, 3H), 4.15 (s, 2H), 7.45, 7.81 (AA′BB′, 2×2H), 9.97 (s, 1H); 13C NMR (APT) δ 30.1 (−), 32.9 (+), 129.3 (−), 129.9 (−), 135.2 (+), 144.7 (+), 191.5 (−), 194.3 (+); GC-MS (EI) obsd 194, 152, 119, 91, 43; Anal. Calcd for C10H10O2S: C, 61.83; H, 5.19; S, 16.51; Found: C, 61.97; H, 5.20; S, 16.60.

reactant | 4-(bromomethyl)-benzaldehyde | BrCC1=CC=C(C=O)C=C1 | C8H7BrO
reactant | 3-(bromomethyl)benzaldehyde | BrCC=1C=C(C=O)C=CC1 | C8H7BrO
reactant | potassium thioacetate | 2.5 mmol, 280 mg | C(C)(=S)[O-].[K+]
reactant | Water | 25 mL | O | H2O
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | 4-(S-Acetylthiomethyl)benzaldehyde | 359 mg, 85% yield | C(C)(=O)SCC1=CC=C(C=O)C=C1 | C10H10O2S
